US08957069B2
1-isoxazol-3-yl-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using N,N-bis(2-chloroethyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine (165 mg, 0.50 mmol) synthesized in Reference Example 146 and isoxazol-3-amine (0.044 mL, 0.60 mmol), the reaction was carried out in the same manner as Example 117 to obtain 15 mg of the title compound as a colorless solid (yield 9%).

reactant | N,N-bis(2-chloroethyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | 0.50 mmol, 165 mg | ClCCN(C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C)CCCl | C17H25Cl2NO
reactant | isoxazol-3-amine | 0.60 mmol, 0.044 mL | O1N=C(C=C1)N | C3H4N2O
product | 1-isoxazol-3-yl-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 15 mg, yield 9% | O1N=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C20H27N3O2
